US06969716B2
A solution of 5-[4-fluoro-3-(3-fluoropyridin-2-yl)phenyl]-3-methylsulfanyl-[1,2,4]triazine and 3, 5-difluoro-2-tributylstannylpyridine were coupled together by the method of Example 36 to give 3-(3,5-difluoro-pyridin-2-yl)-5-[4-fluoro-3-(3-fluoropyridin-2-yl)phenyl]-[1,2,4]triazine: δH (500 MHz, CDCl3) 7.34 (1H, m), 7.40-7.48 (2H, m), 7.56-7.60 (1H, m), 8.43-8.46 (1H, m), 8.54 (1H, dd, J 2.4, 6.6 Hz), 8.61 (2H, m), 9.78 (1H, s); m/z (ES+) 384.

reactant | 5-[4-fluoro-3-(3-fluoropyridin-2-yl)phenyl]-3-methylsulfanyl-[1,2,4]triazine | FC1=C(C=C(C=C1)C=1N=C(N=NC1)SC)C1=NC=CC=C1F | C15H10F2N4S
reactant | 3, 5-difluoro-2-tributylstannylpyridine | FC=1C(=NC=C(C1)F)[Sn](CCCC)(CCCC)CCCC
product | 3-(3,5-difluoro-pyridin-2-yl)-5-[4-fluoro-3-(3-fluoropyridin-2-yl)phenyl]-[1,2,4]triazine | FC=1C(=NC=C(C1)F)C=1N=NC=C(N1)C1=CC(=C(C=C1)F)C1=NC=CC=C1F | C19H9F4N5
